US08686152B2
To a solution of 4-biphenyl-4-ylmethyl-piperidine-1,4-dicarboxylic acid mono-tert-butyl ester (6.32 mmol; 2.5 g) in DMF (50 mL) was added cyclohexylmethylamine (7.59 mmol; 0.99 mL), N,N-diisopropyl-N-ethylamine (15.8 mmol; 2.80 mL) and HBTU (7.59 mmol; 2.88 g), and the resulting mixture was stirred at room temperature overnight. Ethyl acetate (200 mL) was added, and the resulting solution was washed with a 1N hydrochloric acid solution (2×25 mL), and brine (25 mL), and dried over magnesium sulfate. After filtration and evaporation, the residue was purified via flash column chromatography (eluent gradient: 0 to 50% EtOAc in heptane) to yield 4-biphenyl-4-ylmethyl-4-(cyclohexylmethyl-carbamoyl)-piperidine-1-carboxylic acid tert-butyl ester after evaporation. The material thus obtained was dissolved in THF (8 mL) and a 4N HCl solution in 1,4-dioxane (15 mL) was added. The resulting mixture was stirred overnight at room temperature and evaporated. The residue was triturated with diethyl ether and dried to yield 4-biphenyl-4-ylmethyl-piperidine-4-carboxylic acid cyclohexylmethylamide as a hydrochloride salt. MS (ESI) m/z 391.09 [M+H]+.

reactant | 4-biphenyl-4-ylmethyl-piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | 6.32 mmol, 2.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C24H29NO4
reactant | cyclohexylmethylamine | 7.59 mmol, 0.99 mL | C1(CCCCC1)CN | C7H15N
reactant | N,N-diisopropyl-N-ethylamine | 15.8 mmol, 2.80 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 7.59 mmol, 2.88 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 4-biphenyl-4-ylmethyl-4-(cyclohexylmethyl-carbamoyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(NCC1CCCCC1)=O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C31H42N2O3
